US04665073
A mixture of ethyl 4-[4-(3-[2,2,2-trifluoroethyl]thioureido)pyrimid-2-ylthio]butyrate (0.25 g.), DMF (2 ml.), saturated ethanolic ammonia (5 ml.) and yellow mercuric oxide (0.2 g.) was stirred at room temperature for 2 hours and then filtered. The filtrate was evaporated to dryness and the residue recrystallised from EtOAc to give ethyl 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyrate, m.p. 120°-122°.

reactant | ethyl 4-[4-(3-[2,2,2-trifluoroethyl]thioureido)pyrimid-2-ylthio]butyrate | 0.25 g | FC(CNC(NC1=NC(=NC=C1)SCCCC(=O)OCC)=S)(F)F | C13H17F3N4O2S2
reactant | ammonia | 5 ml | N | H3N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | ethyl 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyrate | FC(CN=C(NC1=NC(=NC=C1)SCCCC(=O)OCC)N)(F)F | C13H18F3N5O2S
